* C-AC INDUSTRIAL CORE: 28.35 TW IGNITION NETLIST
* Author: Jose Angel Solorzano Luna
* Model: Chartreuse Unification Model (CUM) - Phase 2 Ignition
* License: MIT - See LICENSE file
* Validation File: CAC-SIM-IGN-28.35TW

.PARAM lp = 1.616255e-35 ; Planck Length
.PARAM pi = 3.1415926535
.PARAM eta = 0.98 ; Impedance Match (1.47 deg Zenith Lock)
.PARAM Vol = 1.0 ; Core Volume (m^3)
.PARAM n_layers = 10 ; Resonant Stack Layers
.PARAM freq = 4.8T ; Drive Frequency (4.8 THz)

* --- THE RESOLUTION FLOOR (VACUUM ANCHOR) ---
* Behavioral source modeling the topological density floor
* Equation: 0 = 12*pi^2 / lp^2
B_Floor node_v 0 V = (12 * (pi**2)) / (lp**2)

* --- THE HOLONOMY LOOP SIPHON ---
* Modeling the S9 manifold rotational torque as a Negative Resistance
* This creates the NESS (Non-Equilibrium Steady State)
B_Siphon n_in n_out I = V(n_in, n_out) * (-1.4**(n_layers-1) * eta * Vol)

* --- THE DRIVE SIGNAL (4.8 THz SAWTOOTH) ---
V_Drive n_drive 0 PULSE(0 1 0 208f 0 1f 208f) ; Sawtooth driver

* --- THE RESONANT LOAD (C-AC STACK) ---
R_Internal n_out 0 1u ; Minimal internal resistance for stability
C_Stack n_in n_out 4.8p ; Resonant capacitance at THz scale
L_Stack n_out 0 1.47n ; Zenith alignment inductance

* --- ANALYSIS COMMANDS ---
.tran 0 500f 0 1f ; Transient analysis at femtosecond resolution
.options plotwinsize=0 ; Disable compression for high accuracy

* --- EXPECTED OUTPUT ---
* V(n_out) will demonstrate a non-linear ignition spike
* P(Total) = V(n_out) * I(B_Siphon) -> Scaling to 28.35 TW equivalent

.END